US04159375
7-(o-Fluorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A mixture of 6.15 g. of 5-(o-fluorophenyl)-3-hydrazino-1,2,4-triazine and 50 ml. of ethyl orthoacetate is refluxed for 2.5 hours, cooled and the solid is collected by filtration and washed with hexane and ethanol, giving the desired product as yellow crystals, m.p. 227°-229° C.

reactant | 5-(o-fluorophenyl)-3-hydrazino-1,2,4-triazine | FC1=C(C=CC=C1)C=1N=C(N=NC1)NN | C9H8FN5
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | 7-(o-Fluorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine | FC1=C(C=CC=C1)C1=NC=2N(N=C1)C(=NN2)C | C11H8FN5
